US08604015B2
Quinuclidine-3-carboxylic acid hydrochloride (150 mg, 0.78 mmol), EDC (225 mg, 1.17 mmol), and HOBT (180 mg, 1.17 mmol) were dissolved in dry THF (7.5 ml). (4-Methoxyphenyl)(phenyl)methanol (184 mg, 0.86 mmol) and TEA (382 μl, 2.74 mmol) were added, and the resulting reaction was stirred at room temperature for four days. THF was removed under vacuum, and the crude residue was partitioned between EtOAc and water. The organic phase was washed with a sat. NaHCO3, dried over Na2SO4, filtered, and evaporated. The crude was purified by flash chromatography (EtOAc/MeOH=8/2 to EtOAc/MeOH=7:3+1% NH4OH) to give (4-methoxyphenyl)(phenyl)methyl quinuclidine-3-carboxylate (37 mg, mixture of diastereoisomers). The compound was used as such in the next step.

reactant | Quinuclidine-3-carboxylic acid hydrochloride | 0.78 mmol, 150 mg | Cl.N12CC(C(CC1)CC2)C(=O)O
reactant | EDC | 1.17 mmol, 225 mg
reactant | HOBT | 1.17 mmol, 180 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (4-Methoxyphenyl)(phenyl)methanol | 0.86 mmol, 184 mg | COC1=CC=C(C=C1)C(O)C1=CC=CC=C1 | C14H14O2
solvent | THF | 7.5 ml | C1CCOC1 | C4H8O
product | (4-methoxyphenyl)(phenyl)methyl quinuclidine-3-carboxylate | 37 mg | N12CC(C(CC1)CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=C(C=C2)OC | C22H25NO3
